*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.20e-02[uF]/25[V]
* Murata P/N :GRM155R71E123KA61
* Property : C = 1.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71E123KA61 Port1 Port2
C01 Port1 N01 1.22e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.77e-10
R03 N02 N03 7.10e-02
C04 N03 N04 1.49e-06
R04 N03 N04 2.30e+03
C05 N04 N05 2.25e-06
R05 N04 N05 1.91e+02
C06 N05 N06 1.90e-06
R06 N05 N06 3.32e+01
C07 N06 N07 1.78e-06
R07 N06 N07 4.48e+00
C08 N07 N08 1.19e-06
R08 N07 N08 7.86e-01
C09 N08 N09 6.54e-07
R09 N08 N09 1.28e-01
L10 N09 N10 6.04e-11
R10 N09 N10 2.02e-01
C11 N10 N11 1.30e-08
L11 N10 N11 1.87e-11
R11 N10 N11 3.90e-02
C12 N11 Port2 1.92e-12
L12 N11 Port2 1.67e-10
R12 N11 Port2 2.05e+01
.ENDS GRM155R71E123KA61
