*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/5.60e-03[uF]/25[V]
* Murata P/N :GRM155R71E562KA01
* Property : C = 5.60e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71E562KA01 Port1 Port2
C01 Port1 N01 5.59e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.55e-10
R03 N02 N03 1.09e-01
C04 N03 N04 5.71e-07
R04 N03 N04 2.83e+03
C05 N04 N05 7.65e-07
R05 N04 N05 1.74e+02
C06 N05 N06 7.10e-07
R06 N05 N06 1.78e+01
C07 N06 N07 6.15e-07
R07 N06 N07 1.87e+00
C08 N07 N08 1.63e-06
R08 N07 N08 2.99e-01
C09 N08 N09 3.17e-07
R09 N08 N09 2.06e-01
C10 N09 N10 1.76e-07
R10 N09 N10 5.44e-02
L11 N10 N11 4.32e-11
R11 N10 N11 4.44e-01
C12 N11 N12 3.04e-09
L12 N11 N12 3.30e-11
R12 N11 N12 8.71e-02
C13 N12 Port2 2.67e-12
L13 N12 Port2 1.36e-10
R13 N12 Port2 2.05e+01
.ENDS GRM155R71E562KA01
