*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/8.20e-03[uF]/25[V]
* Murata P/N :GRM155R71E822KA01
* Property : C = 8.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71E822KA01 Port1 Port2
C01 Port1 N01 8.15e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.78e-10
R03 N02 N03 8.00e-02
C04 N03 N04 1.12e-06
R04 N03 N04 2.11e+03
C05 N04 N05 1.14e-06
R05 N04 N05 1.68e+02
C06 N05 N06 1.08e-06
R06 N05 N06 1.68e+01
C07 N06 N07 8.92e-07
R07 N06 N07 1.78e+00
C08 N07 N08 6.76e-07
R08 N07 N08 2.77e-01
C09 N08 N09 2.37e-07
R09 N08 N09 7.45e-02
L10 N09 N10 5.23e-11
R10 N09 N10 2.19e-01
C11 N10 N11 9.61e-09
L11 N10 N11 2.93e-11
R11 N10 N11 5.18e-02
C12 N11 Port2 3.33e-12
L12 N11 Port2 1.05e-10
R12 N11 Port2 1.44e+01
.ENDS GRM155R71E822KA01
