*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/4.70e+00[uF]/2.5[V]
* Murata P/N :GRM155R60E475ME76
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R60E475ME76 Port1 Port2
C01 Port1 N01 3.65e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 1.66e-10
R03 N02 N03 4.59e-03
C04 N03 N04 4.40e-04
R04 N03 N04 4.54e+00
C05 N04 N05 3.17e-04
R05 N04 N05 2.55e+00
C06 N05 N06 3.26e-04
R06 N05 N06 4.71e-01
C07 N06 N07 3.58e-04
R07 N06 N07 1.00e-01
C08 N07 N08 3.04e-04
R08 N07 N08 2.27e-02
C09 N08 N09 1.77e-04
R09 N08 N09 5.55e-03
L10 N09 N10 1.27e-11
R10 N09 N10 3.06e-01
L11 N10 N11 2.55e-11
R11 N10 N11 9.08e-02
L12 N11 N12 3.54e-11
R12 N11 N12 2.48e-02
L13 N12 N13 1.97e-10
R13 N12 N13 1.70e-02
C14 N13 N14 5.14e-05
L14 N13 N14 1.20e-11
R14 N13 N14 2.01e-03
C15 N14 Port2 8.43e-06
L15 N14 Port2 3.67e-11
R15 N14 Port2 3.83e-03
.ENDS GRM155R60E475ME76
