*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-02[uF]/25[V]
* Murata P/N :GRM155R71E683ME14
* Property : C = 6.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71E683ME14 Port1 Port2
C01 Port1 N01 6.86e-08
R01 Port1 N01 7.35e+08
L02 N01 N02 1.79e-10
R03 N02 N03 1.78e-02
C04 N03 N04 8.35e-06
R04 N03 N04 4.77e+02
C05 N04 N05 1.37e-05
R05 N04 N05 6.14e+01
C06 N05 N06 8.76e-06
R06 N05 N06 1.28e+01
C07 N06 N07 7.70e-06
R07 N06 N07 1.56e+00
C08 N07 N08 5.97e-06
R08 N07 N08 2.07e-01
C09 N08 N09 4.66e-06
R09 N08 N09 2.80e-02
L10 N09 N10 2.28e-11
R10 N09 N10 2.05e-01
L11 N10 N11 9.42e-11
R11 N10 N11 8.75e-02
C12 N11 N12 5.88e-07
L12 N11 N12 1.00e-11
R12 N11 N12 1.11e-02
C13 N12 N13 1.53e-07
L13 N12 N13 2.02e-11
R13 N12 N13 2.07e-02
C14 N13 Port2 8.02e-12
L14 N13 Port2 3.57e-11
R14 N13 Port2 8.72e+00
.ENDS GRM155R71E683ME14
