*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e+00[uF]/4[V]
* Murata P/N :GRM153R60G225ME95
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM153R60G225ME95 Port1 Port2
C01 Port1 N01 1.68e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.67e-10
R03 N02 N03 9.62e-03
C04 N03 N04 3.27e-05
R04 N03 N04 1.80e+02
C05 N04 N05 1.05e-04
R05 N04 N05 5.58e+00
C06 N05 N06 1.26e-04
R06 N05 N06 7.04e-01
C07 N06 N07 1.38e-04
R07 N06 N07 8.04e-02
C08 N07 N08 8.84e-05
R08 N07 N08 1.31e-02
L09 N08 N09 3.71e-11
R09 N08 N09 1.82e-01
L10 N09 N10 1.20e-10
R10 N09 N10 4.06e-02
C11 N10 N11 9.14e-07
L11 N10 N11 7.54e-11
R11 N10 N11 7.24e-03
C12 N11 Port2 2.19e-11
L12 N11 Port2 1.36e-11
R12 N11 Port2 9.51e-01
.ENDS GRM153R60G225ME95
