*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.80e+01[uF]/4[V]
* Murata P/N :GRM155R60G186ME01
* Property : C = 1.80e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R60G186ME01 Port1 Port2
C01 Port1 N01 1.22e-05
R01 Port1 N01 2.78e+06
L02 N01 N02 1.37e-10
R03 N02 N03 4.03e-03
C04 N03 N04 6.00e-04
R04 N03 N04 2.31e+00
C05 N04 N05 8.20e-04
R05 N04 N05 2.19e-01
C06 N05 N06 1.01e-03
R06 N05 N06 3.16e-02
C07 N06 N07 1.03e-03
R07 N06 N07 6.36e-03
C08 N07 N08 6.04e-04
R08 N07 N08 1.83e-03
L09 N08 N09 2.57e-11
R09 N08 N09 1.00e-01
L10 N09 N10 5.34e-11
R10 N09 N10 2.57e-02
L11 N10 N11 1.99e-10
R11 N10 N11 1.37e-02
C12 N11 N12 7.73e-06
L12 N11 N12 1.33e-10
R12 N11 N12 3.28e-03
C13 N12 Port2 2.04e-11
L13 N12 Port2 1.23e-11
R13 N12 Port2 3.38e+00
.ENDS GRM155R60G186ME01
